US06143908
Sodium benzoate (40.64 g, 0.282 mol) was added to a mixture of (R)-4-chloromethyl-2,2-dimethyl-1,3-dioxolane (42.38 g, 0.282 mol) prepared by the same manner as example 3 and N,N-dimethylformamide (400 ml) and the resulting mixture was stirred for 3 days at 150° C. After cooling the salt was filtered off and N,N-dimethylformamide was removed in vacuo and water was added to the residue and extracted with toluene. The extract was washed with saturated brine, dried over anhydrous sodium sulfate and condensed in vacuo to give 58.63 g of crude (R)-4-benzoyloxymethyl-2,2-dimethyl-1,3-dioxolane (yield 88%).

reactant | Sodium benzoate | 0.282 mol, 40.64 g | C(C1=CC=CC=C1)(=O)[O-].[Na+]
reactant | (R)-4-chloromethyl-2,2-dimethyl-1,3-dioxolane | 0.282 mol, 42.38 g | ClC[C@@H]1OC(OC1)(C)C | C6H11ClO2
solvent | N,N-dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | (R)-4-benzoyloxymethyl-2,2-dimethyl-1,3-dioxolane | 58.63 g, yield 88% | C(C1=CC=CC=C1)(=O)OC[C@@H]1OC(OC1)(C)C | C13H16O4
